US07989465B2
To a stirred solution of 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoic acid (0.05 g, 0.12 mmol) in DMF (2 mL) were added MeNH—OMe.HCl (0.0084 g, 0.12 mmol), EDCI.HICl (0.0361 g, 0.18 mmol), HOBT (0.0084 g, 0.062 mmol) and DIPEA (0.023 g, 0.18 mmol). The reaction mixture was stirred at room temperature for 1 h and was quenched with water. A white solid was isolated by filtration and dried under vacuum to give N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide (0.025 g, 44.5%) as a white solid.

reactant | 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoic acid | 0.12 mmol, 0.05 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C(=O)O)C=CC1 | C23H18N4O3
reactant | MeNH—OMe.HCl | 0.12 mmol, 0.0084 g | CNOC.Cl
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.062 mmol, 0.0084 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.18 mmol, 0.023 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide | 0.025 g, 44.5% | CON(C(C1=CC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H23N5O3
